US07592477B2
Step a) Formation of N-(4-dodec-1-ynylbenzyl)-N-[2-(2-fluorophenyl)ethyl]amine
The same procedure as employed in the preparation of Example 394 (step b) but using 4-dodec-1-ynylbenzaldehyde and 2-(2-fluorophenyl)ethylamine gave the title compound as an oil. M+(LC/MS(ESI)): 394.4. HPLC (Condition A), Rt: 5.00 min (HPLC purity: 93.6%).

reactant | 4-dodec-1-ynylbenzaldehyde | C(#CCCCCCCCCCC)C1=CC=C(C=O)C=C1 | C19H26O
reactant | 2-(2-fluorophenyl)ethylamine | FC1=C(C=CC=C1)CCN | C8H10FN
product | N-(4-dodec-1-ynylbenzyl)-N-[2-(2-fluorophenyl)ethyl]amine | C(#CCCCCCCCCCC)C1=CC=C(CNCCC2=C(C=CC=C2)F)C=C1 | C27H36FN
